US06326510B1
(b) 4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propanoyloxy]benzoic acid
1.7 g (3.7 mmol) of benzyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]-benzoate, 40 ml of dioxane and 340 mg of palladium on charcoal (10%) are introduced into a reactor. The mixture is hydrogenated at 40° C. and at a pressure of 7 bar for three hours. The catalyst is filtered off and the mixture is evaporated to dryness. The solid obtained is triturated from hexane, filtered off and dried. 1.2 g (85%) of 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propanoyloxy]benzoic acid, with a melting point of 183-4° C., are collected.

reactant | benzyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]-benzoate | 3.7 mmol, 1.7 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C31H32O4
catalyst | palladium on charcoal | 340 mg | [Pd] | Pd
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propanoyloxy]benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)CCC(=O)OC1=CC=C(C(=O)O)C=C1)C | C24H28O4
